US08277807B2
1-(2,4-Dihydroxy-5-isopropyl-phenyl)-ethanone
4-Isopropyl-benzene-1,3-dial (5.8 g) and boron trifluoride etherate (28.7 ml) were introduced into a 250 ml single neck RB flask equipped with a reflux condenser and an inlet for nitrogen atmosphere stirred at RT for 10 min. Acetic acid (4.55 ml) was added to the reaction mixture and stirred at 90° C. for 16 h. On completion, 10% sodium acetate (300 ml) was added to the reaction mixture which was stirred at RT for 4 h before. The reaction mixture was extracted with ethyl acetate (300 ml) and washed with sat. sodium bicarbonate (100 ml) and the organic layer was dried over sodium sulphate. The reaction was monitored by TLC (10% EtOAc/n-hexane, product Rf˜0.5). The solvent was removed under reduced pressure to give a residue, which was further purified by column chromatography (SiO2, 10% EtOAc/n-hexane).

reactant | 4-Isopropyl-benzene-1,3-dial | 5.8 g | C(C)(C)C1=C(C=C(C=C1)C=O)C=O | C11H12O2
reactant | boron trifluoride etherate | 28.7 ml | B(F)(F)F.CCOCC
reactant | sodium acetate | 300 ml | C(C)(=O)[O-].[Na+]
solvent | Acetic acid | 4.55 ml | C(C)(=O)O | C2H4O2
product | 1-(2,4-Dihydroxy-5-isopropyl-phenyl)-ethanone | OC1=C(C=C(C(=C1)O)C(C)C)C(C)=O | C11H14O3
